US06211215B1
A mixture of 3-[4-methoxy-3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate (900 mg), sodium iodide (3.00 g) and acetone (20 ml) was heated for one hour under reflux. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:4, v/v), 4-[3-(3-iodopropyl)-2-methoxyphenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole (905 mg, 95%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 103-104° C.

reactant | 3-[4-methoxy-3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | 900 mg | CS(=O)(=O)OCCCC1=CC(=C(C=C1)OC)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C23H25NO6S
reactant | sodium iodide | 3.00 g | [I-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-[3-(3-iodopropyl)-2-methoxyphenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | 905 mg, 95% | ICCCC=1C(=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=CC1)OC | C22H22INO3
